US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 4-(2,5-difluoro-4-methoxyphenyl)-1-(3-phenylpropanoyl)piperazine (344 mg). The resulting crude product was purified on TLC (developer, chloroform: methanol=15:1) to provide 4-(2,5-difluoro-4-hydroxyphenyl)-1-(3-phenylpropanoyl)piperazine (247 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 4-(2,5-difluoro-4-methoxyphenyl)-1-(3-phenylpropanoyl)piperazine | 344 mg | FC1=C(C=C(C(=C1)OC)F)N1CCN(CC1)C(CCC1=CC=CC=C1)=O | C20H22F2N2O2
product | 4-(2,5-difluoro-4-hydroxyphenyl)-1-(3-phenylpropanoyl)piperazine | 247 mg | FC1=C(C=C(C(=C1)O)F)N1CCN(CC1)C(CCC1=CC=CC=C1)=O | C19H20F2N2O2
